US08754226B2
To a nitrogen purged vessel was added Pd2 dba3 (0.0386 g, 0.0422 mmol), NaOtBu (0.169 g, 1.76 mmol), 2,8,9-triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane (0.0600 mL, 0.169 mmol), 2-chloro-5-ethylpyridine (0.100 g, 0.703 mmol) and (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (Preparation E; 0.300 g, 0.844 mmol). Toluene (4 mL, purged with nitrogen) was added and the reaction was heated at 100° C. overnight. The mixture was cooled to ambient temperature, diluted with EtOAc, and washed with water. The organics were dried over Na2SO4, concentrated and purified on silica eluting with 100% EtOAc to give 1-(1-(5-ethylpyridin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one (0.177 g, 54% yield) as white solids. Mass spectrum (apci) m/z=461.3 (M+H).

reactant | NaOtBu | 1.76 mmol, 0.169 g | CC(C)(C)[O-].[Na+]
reactant | 2,8,9-triisobutyl-2,5,8,9-tetraaza-1-phosphabicyclo[3.3.3]undecane | 0.169 mmol, 0.0600 mL | C(C(C)C)N1P2N(CCN(CC1)CCN2CC(C)C)CC(C)C | C18H39N4P
reactant | 2-chloro-5-ethylpyridine | 0.703 mmol, 0.100 g | ClC1=NC=C(C=C1)CC | C7H8ClN
reactant | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 0.844 mmol, 0.300 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C16H22FN3O3S
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2 dba3 | 0.0422 mmol, 0.0386 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(1-(5-ethylpyridin-2-yl)piperidin-4-yl)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)pyrrolidin-2-one | 0.177 g, 54% yield | C(C)C=1C=CC(=NC1)N1CCC(CC1)N1C(C(CC1)NC1=C(C=C(C=C1)S(=O)(=O)C)F)=O | C23H29FN4O3S
